Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Fall down stairs 
Left upper extremity pain
 
Major Surgical or Invasive Procedure:
Open reduction and internal fixation, LEFT proximal humerus 
Open reduction and internal fixation, LEFT olecranon 
 
History of Present Illness:
Ms. ___ is a healthy ___ female who presented to 
the ___ emergency department after sustaining a fall down the 
stairs at home. She states that she got up to go to the bathroom 
the night prior to presentation and had a fall down several 
stairs. She had immediate LUE pain and EMS was called. She did 
hit her head and lose consciousness. She has no 
numbness/tingling. She had not ambulated since the fall. 
 
Past Medical History:
Seasonal allergies 
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Afebrile 
Vital signs stable 
No apparent distress 
Heart rate regular 
Respirations non-labored 
Skin intact over left clavicle without tenting
Left upper extremity in bulky soft dressing; clean, dry, intact 
Fires APL, FDS/FDP, DIO 
Sensation intact M/U/R
Fingers warm and well-perfused 
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have fractures of her left clavicle, left proximal humerus 
and left olecranon and was admitted to the orthopedic surgery 
service. The patient was taken to the operating room on 
___ for surgical fixation of her peroximal humerus and 
olecranon fractures, which the patient tolerated well. For full 
details of the procedure please see the separately dictated 
operative report. The patient was taken from the OR to the PACU 
in stable condition and after satisfactory recovery from 
anesthesia was transferred to the floor. The patient was 
initially given IV fluids and IV pain medications, and 
progressed to a regular diet and oral medications by POD#1. The 
patient was given ___ antibiotics and anticoagulation 
per routine. The patient's home medications were continued 
throughout this hospitalization.  The patient worked with ___ who 
determined that discharge home with home ___ was appropriate. The 
___ hospital course was otherwise unremarkable. Her 
clavicle fracture will be managed non-operatively. 

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
non-weight-bearing in the left upper extremity, and will be 
discharged on Aspirin BID for DVT prophylaxis. The patient will 
follow up with Dr. ___ routine. A thorough discussion 
was had with the patient regarding the diagnosis and expected 
post-discharge course including reasons to call the office or 
return to the hospital, and all questions were answered. The 
patient was also given written instructions concerning 
precautionary instructions and the appropriate follow-up care. 
The patient expressed readiness for discharge.
 
Medications on Admission:
Claritin
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*60 Tablet Refills:*0
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*28 Tablet Refills:*0
3. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Moderate 
Pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*90 Tablet Refills:*0
4. Aspirin 325 mg PO BID Duration: 30 Days 
Take for 30 days to help prevent blood clots.  
RX *aspirin 325 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left clavicle fracture
Left proximal humerus fracture
Left olecranon fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, 

- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- Non-weight-bearing, left upper extremity 
- Range of motion as tolerated at wrist, elbow and shoulder in 
postoperative dressing. 

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take Lovenox 40mg daily for 4 weeks

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- Dressing must be left on until follow up appointment unless 
otherwise instructed
- Do NOT get dressing wet (you may cover with bag to shower)

Physical Therapy:
Non-weight-bearing, left upper extremity 
Range of motion as tolerated in postoperative dressing 
Treatments Frequency:
General postoperative care
 
Followup Instructions:
___